US06174877B1
(S)-1-(2-pyridyl)-2-propanol
2-Bromopyridine (1.58 g) was dissolved in diethyl ether (20 ml). To the solution was added at −60° C. n-butyllithium (1.6M hexane solution, 6.25 ml). The mixture was stirred for 5 minutes at the same temperature. To the reaction mixture were added (S)-(−)-propylene oxide (1.00 ml) and boron trifluoride diethyl etherate (1.23 ml) successively. The mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added 5% sodium hydrogencarbonate (30 ml), which was then subjected to salting out with sodium chloride, followed by extraction with ethyl acetate (20 ml) five times. The organic layer was dried over anhydrous magnesium sulfate, which was then concentrated. The concentrate was purified by means of a column chromatography (carrier: silica gel: 50 g, eluted with ethyl acetate) to give the title compound (0.33 g).

reactant | 2-Bromopyridine | 1.58 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 1.6M, 6.25 ml | C(CCC)[Li]
reactant | (S)-(−)-propylene oxide | 1.00 ml | C1[C@H](C)O1 | C3H6O
reactant | boron trifluoride diethyl etherate | 1.23 ml | B(F)(F)F.CCOCC
reactant | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (S)-1-(2-pyridyl)-2-propanol | 0.33 g | N1=C(C=CC=C1)C[C@H](C)O | C8H11NO
